US07115611B2
C] 2-(3-Fluoro-4-hydroxy-phenoxy)-2-methyl-propionic acid ethyl ester
A solution of 3.10 g (10.9 mmol) of 2-(4-acetoxy-3-fluoro-phenoxy)-2-methyl-propionic acid ethyl ester in 30 ml ethanol was treated at 0° C. with 2.26 g (16.4 mmol) of K2CO3. The mixture was stirred for 1 day at RT, the neutralized with aqueous 10% KHSO4 and extracted with ether (3×). The organic phases were washed with aqueous 10% KHSO4, aqueous 10% NaCl and dried over sodium sulfate. The crude product was purified by flash chromatography over silica gel with heptane/AcOEt 97.5:2.5 to 4:1, to give 2.48 g of the title compound as colorless crystalls.

reactant | 2-(4-acetoxy-3-fluoro-phenoxy)-2-methyl-propionic acid ethyl ester | 10.9 mmol, 3.10 g | C(C)OC(C(C)(C)OC1=CC(=C(C=C1)OC(C)=O)F)=O | C14H17FO5
reactant | K2CO3 | 16.4 mmol, 2.26 g | C(=O)([O-])[O-].[K+].[K+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(3-Fluoro-4-hydroxy-phenoxy)-2-methyl-propionic acid ethyl ester | 2.48 g | C(C)OC(C(C)(C)OC1=CC(=C(C=C1)O)F)=O | C12H15FO4
